US09255089B2
2,3-diamino-5-(3,5-dimethylisoxazol-4-yl)benzoic acid (22 g, 0.089 mol) was dissolved in DMF (C=3.0 M) and HATU (1.3 eq), DIPEA (7 eq), and N,O-dimethylhydroxylamine hydrochloride (2.5 eq) were added in one portion and the reaction was allowed to stir under air at room temperature for 1 hr. The reaction was concentrated in vacuo and the residue was dissolved in ethyl acetate. The solution was washed once with NaHCO3 and three times with brine. The crude was concentrated in vacuo and purified via silica gel chromatography to give 2,3-diamino-5-(3,5-dimethylisoxazol-4-yl)-N-methoxy-N-methylbenzamide as a light brown powder.

reactant | 2,3-diamino-5-(3,5-dimethylisoxazol-4-yl)benzoic acid | 0.089 mol, 22 g | NC1=C(C(=O)O)C=C(C=C1N)C=1C(=NOC1C)C | C12H13N3O3
reactant | HATU | 1.3 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 7 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | N,O-dimethylhydroxylamine hydrochloride | 2.5 eq | Cl.CNOC
solvent | DMF | 3.0 M | CN(C)C=O | C3H7NO
product | 2,3-diamino-5-(3,5-dimethylisoxazol-4-yl)-N-methoxy-N-methylbenzamide | NC1=C(C(=O)N(C)OC)C=C(C=C1N)C=1C(=NOC1C)C | C14H18N4O3
